US04232039
9.2 g of 6-cyclohexyl-3-methyl-benzofuran are dissolved in 140 ml of ethyl acetate and hydrogenated in the presence of palladium (10% on active charcoal). After 5 hours, the mixture is filtered and reduced in volume. 6-Cyclohexyl-2,3-dihydro-3-methyl-benzofuran is obtained as an oily product by distillation in a bulb tube at 120°/0.1 mm.

reactant | 6-cyclohexyl-3-methyl-benzofuran | 9.2 g | C1(CCCCC1)C1=CC2=C(C(=CO2)C)C=C1 | C15H18O
solvent | ethyl acetate | 140 ml | C(C)(=O)OCC | C4H8O2
solvent | palladium | [Pd] | Pd
product | 6-Cyclohexyl-2,3-dihydro-3-methyl-benzofuran | C1(CCCCC1)C1=CC2=C(C(CO2)C)C=C1 | C15H20O
